US05254581
Using the procedure described in the third paragraph of the portion of Example 2 which is concerned with the preparation of 4-ethoxycarbonyl-4-(3-hydroxyphenyl)tetrahydropyran, 3-(7-fluoronaphth-2-ylmethoxy)phenylacetonitrile was reacted with bis-2-chloroethyl ether to give 4-cyano-4-[3-(7-fluoronaphth-2-ylmethoxy)phenyl]tetrahydropyran in 39% yield, m.p. 106°-107° C.

reactant | 4-ethoxycarbonyl-4-(3-hydroxyphenyl)tetrahydropyran | C(C)OC(=O)C1(CCOCC1)C1=CC(=CC=C1)O | C14H18O4
reactant | 3-(7-fluoronaphth-2-ylmethoxy)phenylacetonitrile | FC1=CC=C2C=CC(=CC2=C1)COC=1C=C(C=CC1)CC#N | C19H14FNO
product | 4-cyano-4-[3-(7-fluoronaphth-2-ylmethoxy)phenyl]tetrahydropyran | 39% yield | C(#N)C1(CCOCC1)C1=CC(=CC=C1)OCC1=CC2=CC(=CC=C2C=C1)F | C23H20FNO2
